US06599921B2
Step F: 1-[2-(4-bromo-phenoxy)-ethyl]-piperidine
4-bromophenol (5.2 g, 30 mmol), K2CO3 (10.4 g, 75 mmol) and anhydrous DMF (50 ml) were mixed together under Ar and heated at 100° C. 1-(2-chloroethyl)-piperidine hydrochloride (5.5 g, 30 mmol) was added in portions over 10 min and the reaction maintained at 100° C. for 1.5 h. After cooling the reaction, the solid was filtered off and the solvent removed under vacuum. The crude product was chromatographed on silica gel with methanol/ethyl acetate (3:1) to yield 6.7 g (78%) of the title compound. 1H-NMR (400 MHz, CDCl3) δH 1.44 (2H, m, NCH2CH2CH2), 1.59, (4H, m, NCH2CH2), 2.48 (4H, m, NCH2CH2), 2.73 (2H, t, NCH2CH2O), 4.03 (2H, t, NCH2CH2O), 6.76 (2H, d, ArH), 7.33 (2H, d, ArH).

reactant | 4-bromophenol | 30 mmol, 5.2 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | K2CO3 | 75 mmol, 10.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(2-chloroethyl)-piperidine hydrochloride | 30 mmol, 5.5 g | Cl.ClCCN1CCCCC1
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-bromo-phenoxy)-ethyl]-piperidine | 6.7 g, 78% | BrC1=CC=C(OCCN2CCCCC2)C=C1 | C13H18BrNO
